US04521599
1-N-Methyl-6-Phenyl-2,4-Pyrimidine-Dione
To 189 mg (1 mM) of 6-phenyl-1,3-oxazine-2,4-dione from Preparation Ia(1) is added 10 ml of a 40 percent aqueous CH3NH2 solution. The reaction mixture is allowed to heat at reflux for 18 hours. The resulting solution is cooled to room temperature and the precipitate filtered, washed well with water, and dried at 60° C. under vacuum. The yield is 146 mg (72 percent) (m.p. 183°-185° C.) of 1-N-methyl-6-phenyl-2,4-pyrimidine-dione.

reactant | 6-phenyl-1,3-oxazine-2,4-dione | 1 mM, 189 mg | C1(=CC=CC=C1)C1=CC(NC(O1)=O)=O | C10H7NO3
reactant | CH3NH2 | CN | CH5N
product | 1-N-Methyl-6-Phenyl-2,4-Pyrimidine-Dione | CN1C(NC(C=C1C1=CC=CC=C1)=O)=O | C11H10N2O2
